US03957489
o-Nitrophenyl phenyl ether was reduced catalytically to o-phenoxyaniline, m. 43°-5°, which was acetylated to 2'-phenoxyacetanilide, m. 82°-4°. Yields from both reactions were essentially quantitative. The 2'-phenoxy-acetanilide was dissolved in acetic acid and treated at 60°-80° with red fuming nitric acid to produce a 60-70% yield of 4'-nitro-2'-phenoxy-acetanilide, m. 176°-183°. This was deacetylated by refluxing with methanolic hydrochloric acid to 4-nitro-2-phenoxyaniline, m. 116°-8°. The yield was 99% of theoretical.

reactant | o-Nitrophenyl phenyl ether | C1(=CC=CC=C1)OC1=C(C=CC=C1)[N+](=O)[O-] | C12H9NO3
reactant | o-phenoxyaniline | O(C1=CC=CC=C1)C1=C(N)C=CC=C1 | C12H11NO
reactant | 2'-phenoxyacetanilide | O(C1=CC=CC=C1)C1=C(NC(C)=O)C=CC=C1 | C14H13NO2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4'-nitro-2'-phenoxy-acetanilide | 60-70% yield | [N+](=O)([O-])C1=CC(=C(NC(C)=O)C=C1)OC1=CC=CC=C1 | C14H12N2O4
